US06861432B2
4-[5-[1-[4-Cyano-3-(trifluoromethyl)phenyl]-2,5-dihydro-4-methyl-2,5-dioxo-1H-pyrrol-3-yl]pentyl]-N-[4-(dimethylamino)phenyl]piperazine-1-carboxamide
0.2 ml of a solution of triethylamine in tetrahydrofuran (1.5 mol/l) and 7 mg of 4-(dimethylamino)phenylisocyanate in 0.4 ml of tetrahydrofuran were added to a solution of 9 mg of 4-[2,5-dihydro-3-methyl-2,5-dioxo-4-[5-(piperazin-1-yl)pentyl]-1H-pyrrol-1-yl]-2-(trifluoromethyl)benzonitrile in 0.4 ml of tetrahydrofuran, and the mixture was stirred for 8 hours at room temperature. For working-up, the reaction mixture was diluted with ethyl acetate and washed with semi-saturated sodium bicarbonate solution. After the organic phase was concentrated by evaporation, it was chromatographed with methanol/dichloromethane on silica gel, and 3 mg of the title compound was thus obtained as a yellowish oil.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 4-(dimethylamino)phenylisocyanate | 7 mg | CN(C1=CC=C(C=C1)N=C=O)C | C9H10N2O
reactant | 4-[2,5-dihydro-3-methyl-2,5-dioxo-4-[5-(piperazin-1-yl)pentyl]-1H-pyrrol-1-yl]-2-(trifluoromethyl)benzonitrile | 9 mg | CC=1C(N(C(C1CCCCCN1CCNCC1)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F)=O | C22H25F3N4O2
solvent | tetrahydrofuran | 1.5 mol/l | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.4 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[5-[1-[4-Cyano-3-(trifluoromethyl)phenyl]-2,5-dihydro-4-methyl-2,5-dioxo-1H-pyrrol-3-yl]pentyl]-N-[4-(dimethylamino)phenyl]piperazine-1-carboxamide | C(#N)C1=C(C=C(C=C1)N1C(C(=C(C1=O)C)CCCCCN1CCN(CC1)C(=O)NC1=CC=C(C=C1)N(C)C)=O)C(F)(F)F | C31H35F3N6O3
